US06538152B1
To a stirred solution of ethyl 2-[4-(2-bromoethyl)-3-methoxyphenoxy]acetate (640 mg) in dichloromethane (4 ml) was added tert-butyl hypochlorite (251 μl) at room temperature, and the mixture was stirred for 30 minutes. To the reaction mixture was added a solution of sodium sulfite (504 mg) in water (2 ml) and the resulting mixture was stirred for 30 minutes at room temperature. The mixture was extracted with ethyl acetate. The organic layer was washed with brine and dried over anhydrous magnesium sulfate. After the solvent was removed under reduced pressure, purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=7/1) gave ethyl 2-[4-(2-bromoethyl)-2-chloro-5-methoxyphenoxy]acetate (685 mg).

reactant | ethyl 2-[4-(2-bromoethyl)-3-methoxyphenoxy]acetate | 640 mg | BrCCC1=C(C=C(OCC(=O)OCC)C=C1)OC | C13H17BrO4
reactant | tert-butyl hypochlorite | 251 μl | ClOC(C)(C)C | C4H9ClO
reactant | sodium sulfite | 504 mg | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
solvent | water | 2 ml | O | H2O
product | ethyl 2-[4-(2-bromoethyl)-2-chloro-5-methoxyphenoxy]acetate | 685 mg | BrCCC1=CC(=C(OCC(=O)OCC)C=C1OC)Cl | C13H16BrClO4
